US06831175B2
N-{2-[(5-bromopyridin-3-yl)oxy]ethyl}-N,N-dimethylamine
A solution of N,N-dimethylethanolamine(0.5 mL) in DMF (10 mL) at room temperature was treated with sodium hydride (0.2 g, 8.4 mmol), stirred for 30 minutes, and treated with 3,5-dibromopyridine (1.0 g, 4.2 mmol). The mixture was stirred at 90° C. for 8 hours, and partitioned between ethyl acetate and water. The organic layer was washed with brine, dried (Na2SO4), filtered, and concentrated under vacuum. Purification by flash column chromatography on silica gel with 50% ethyl acetate/hexane provided the desired product (0.8 g, 78%). MS (DCI/NH3) m/e 246 (M+H)+.

reactant | N,N-dimethylethanolamine | 0.5 mL | CN(CCO)C | C4H11NO
reactant | sodium hydride | 8.4 mmol, 0.2 g | [H-].[Na+]
reactant | 3,5-dibromopyridine | 4.2 mmol, 1.0 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-{2-[(5-bromopyridin-3-yl)oxy]ethyl}-N,N-dimethylamine | 0.8 g, 78% | BrC=1C=C(C=NC1)OCCN(C)C | C9H13BrN2O
